US05914328
62c. 1-BOC-2-(R)-azetidinylmethoxy pyridine
A 1.10 g (5.87 mmol) sample of 1-BOC-2-(R)-azetidinemethanol, prepared in step 62b above, and 588 g (5.87 mmol) of 3-hydroxypyridine were reacted with triphenylphosphine and DEAD (7.05 mmol each) in 100 mL of THF according to the procedure of Example 14a, to give the title compound.

reactant | 1-BOC-2-(R)-azetidinemethanol | C(=O)(OC(C)(C)C)N1[C@H](CC1)CO | C9H17NO3
reactant | 3-hydroxypyridine | 5.87 mmol, 588 g | OC=1C=NC=CC1 | C5H5NO
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 7.05 mmol | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-BOC-2-(R)-azetidinylmethoxy pyridine | C(=O)(OC(C)(C)C)N1[C@@H](C=CC=C1)OCN1CCC1 | C14H22N2O3
